US05516795
To a THF (15 mL) solution of 3-(p-nitrobenzenethioxy)bromobenzene (2.0 g, 6.4 mmol), prepared as in step 1, was added methanol (50 mL) and CuC1 (0.89 g, 99%, 9.0 mmol). The solution was cooled to ~10° C. in an icebath and solid potassium borohydride (1.13 g, 21 mmol) was added in small portions while maintaining the reaction temperature below 20° C. After complete addition of potassium borohydride the icebath was removed. The reaction was judged to be complete after 20 min and was quenched by adding water (40mL) while maintaining the reaction temperature under 20° C. The quenched reaction mixture was filtered through celite and partitioned between ether and water. After separating the layers the aqueous layer was extracted three times with ether. The combined organic layers were washed twice with brine and concentrated to 1/2 the original volume. The solution was treated with decolorizing carbon while drying over MgSO4, filtered through a celite pad, and concentrated in vacuo to give 3-(p-aminobenzenethioxy)bromobenzene (1.81 g, 101%) as a waxy red solid which was carried on without further purification.

reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | 3-(p-nitrobenzenethioxy)bromobenzene | 6.4 mmol, 2.0 g | [N+](=O)([O-])C1=CC=C(C=C1)SC=1C=C(C=CC1)Br | C12H8BrNO2S
reactant | potassium borohydride | 21 mmol, 1.13 g | [BH4-].[K+]
solvent | methanol | 50 mL | CO | CH4O
product | 3-(p-aminobenzenethioxy)bromobenzene | 1.81 g, 101% | NC1=CC=C(C=C1)SC=1C=C(C=CC1)Br | C12H10BrNS
